US08115006B2
3 ml of thionyl chloride and 5 drops of dimethylformamide were added to a mixed solution comprising 3.0 g of 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylic acid and 30 ml of toluene, followed by reflux with heating for one hour, and thionyl chloride and toluene were distilled off to obtain crude product of 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carbonyl chloride.

reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylic acid | 3.0 g | BrC1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl | C9H5BrClN3O2
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carbonyl chloride | BrC1=NN(C(=C1)C(=O)Cl)C1=NC=CC=C1Cl | C9H4BrCl2N3O
